Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Post Coital Headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a pleasant ___ woman with migraines and 
PCOS who presents with sudden onset headache during intercourse. 
Occurred at 1pm, worst at onset and has gotten slightly better, 
constant. Starts at the back of her head but sometimes the front 
as well. Throbbing pain has died down, but the initial 
indescribable pain continues in the back of her head. Better 
with standing, worse with sitting, constant when lying down. 
Endorses photophobia and phonophobia, nausea and vomiting. Never 
happened before

Also endorses fingers tingling bilaterally. No upper or lower 
extremity weakness, no confusion, no facial droop. No history of 
exertional headaches.

Has a history of migraines, last one was over one year ago. 
Throbbing pain behind the eye with photophobia. Usually stress 
induced and will last 3 days. No new medication changes.  

No recent fevers, chills, night sweats. No cough, cold, increase 
in urinary frequency or burning with urination Endorses history 
of cold sores but does not have any currently.

Given her headache, she went to ___ where ___ was 
negative for SAH and she had an LP that showed no WBC but 2400 
RBCs that did not clear. She was transferred to ___ for 
neurosurgery evaluation for ___. Due to lack of xanthochromia, 
neurosurgery said this was not SAH. 

 
Past Medical History:
OSA, endometriosis, DM, PCOS, hysteroscopy and laparoscopy
 
Social History:
___
Family History:
mother with brain aneurysm and TIA, brother with migraine

 
Physical Exam:
Admission Exam:
Vitals:  T: 97.6F  HR: 95  BP: 174/95  RR: 16  SaO2: 98% RA
General: shying away from light, clearly uncomfortable
HEENT: atraumatic, +photophobia, +neck pain/stiffness when 
turning head side to side
Pulmonary: breathing comfortably
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate 
history without difficulty. Speech is fluent with full sentences 
and intact verbal comprehension. Naming intact to high and low 
frequency objects. No paraphasias. No dysarthria. Normal 
prosody. No evidence of hemineglect. No left-right confusion.  
Able to follow both midline and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. Photophobic, unable to 
visualize optic discs ___ pt constantly closing her eyes to 
light from ophthalmoscope. VF full to number counting. EOMI, no 
nystagmus. V1-V3 without deficits to light touch bilaterally. No 
facial movement asymmetry. Hearing intact to finger rub 
bilaterally. Palate elevation symmetric. SCM/Trapezius strength 
___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. 

   [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    5 
 R   5     5     5     5     5    5     5     5     5    5
  
- Reflexes: 
       [Bic] [Tri] [___] [Quad] [Gastroc]
     L  2+    2+     2+      0       0
     R  2+    2+     2+      1       0  
  
Plantar response flexor bilaterally 

- Sensory: No deficits to light touch throughout

- Coordination: No dysmetria with finger to nose testing 
bilaterally. 

- Gait: deferred

Discharge Exam
Physical Exam:
Vitals:  T: 97.7F  HR: 90  BP:119-138/90's   RR: 16  SaO2: 98% 
RA
General: shying away from light, clearly uncomfortable
HEENT: atraumatic, +photophobia, +neck pain/stiffness when
turning head side to side
Pulmonary: breathing comfortably
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Speech is fluent with full sentences
and intact verbal comprehension. Naming intact to high and low
frequency objects. No paraphasias. No dysarthria. Normal 
prosody.
Able to follow both midline and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally. Palate elevation symmetric. 
SCM/Trapezius
strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. 

   [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    5 
 R   5     5     5     5     5    5     5     5     5    5
  
- Reflexes: 
       [Bic] [Tri] [___] [Quad] [Gastroc]
     L  2+    2+     2+      0       0
     R  2+    2+     2+      1       0  
  
Plantar response flexor bilaterally 

- Sensory: No deficits to light touch throughout

- Coordination: No dysmetria with finger to nose testing
bilaterally. 

- Gait: deferred

 
Pertinent Results:
___ 03:35AM URINE  HOURS-RANDOM
___ 03:35AM URINE  UHOLD-HOLD
___ 03:35AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:35AM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-100 
GLUCOSE-TR KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 LEUK-NEG
___ 03:35AM URINE  RBC-19* WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-2
___ 03:35AM URINE  MUCOUS-RARE
___ 10:58PM   LACTATE-2.8*
___ 10:50PM URINE  HOURS-RANDOM
___ 10:50PM URINE  HOURS-RANDOM
___ 10:50PM URINE  HOURS-RANDOM
___ 10:50PM URINE  UCG-NEGATIVE
___ 10:50PM URINE  UHOLD-HOLD
___ 10:50PM URINE  GR HOLD-HOLD
___ 10:27PM   GLUCOSE-158* UREA N-10 CREAT-0.8 SODIUM-137 
POTASSIUM-4.0 CHLORIDE-97 TOTAL CO2-22 ANION GAP-22*
___ 10:27PM   ALT(SGPT)-20 AST(SGOT)-16 ALK PHOS-103 TOT 
BILI-0.2
___ 10:27PM   ALBUMIN-4.3
___ 10:27PM   WBC-24.4* RBC-5.67* HGB-14.0 HCT-44.7 MCV-79* 
MCH-24.7* MCHC-31.3* RDW-14.1 RDWSD-40.5
___ 10:27PM   NEUTS-88.0* LYMPHS-8.2* MONOS-2.9* EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-21.48* AbsLymp-1.99 AbsMono-0.72 
AbsEos-0.00* AbsBaso-0.05
___ 10:27PM   PLT COUNT-409*
___ 10:27PM   ___ PTT-31.9 ___

CTA head and neck ___
IMPRESSION: 
1. Normal head and neck CTA. 
2. There is no intracranial hemorrhage or aneurysm. 

MRI/MRA brain ___
IMPRESSION: 
1. Normal brain MRI and MRV. 
  

  

 
Brief Hospital Course:
___ woman with migraines and PCOS presented with acute 
thunderclap headache during coitus. OSH obtained NCHCT (~2 hours 
after bleed) which was negative for bleed, and performed LP (~7 
hours after bleed), which showed 2200RBCs and 0WBC's. She was 
transferred to ___ for further work up. At ___ CTA head and 
neck was negative for aneurysm. MRI was negative for CVT or any 
other intracranial abnormality. Etiology is most likely post 
coital headache. Pt received sumatriptan with improvement of 
symptoms. Team discussed with patient possibility of recurrence 
of headache during intercourse. She was instructed to return 
immediately to the emergency room should this be the case since 
even though recurrence could be explained by recurrence of post 
coital headache there is always a risk that this could represent 
SAH. Pt voiced understanding of plan. She was discharged with 
prescription for sumatriptan and outpatient neurology follow up. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 1000 mg PO BID 
2. Vitamin D ___ UNIT PO 1X/WEEK (FR) 

 
Discharge Medications:
1.  Sumatriptan Succinate 50 mg PO ONCE:PRN headache 
please take as soon as headache begins 
RX *sumatriptan succinate 50 mg 1 tablet(s) by mouth prn once 
daily Disp #*20 Tablet Refills:*0 
2.  MetFORMIN (Glucophage) 1000 mg PO BID  
3.  Vitamin D ___ UNIT PO 1X/WEEK (FR)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Post coital headache

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___ 
___ were admitted to ___ for post coital headache (headache 
during or after intercourse). ___ underwent head imaging which 
did not show any abnormality. ___ were given sumtriptan which 
improved your headache. ___ will be discharged with a 
prescription for sumtriptan and a neurology outpatient follow 
up. 

It was a pleasure taking care of ___
Best,
Your ___ team  
 
Followup Instructions:
___